US04612317
Methyl (1R, 3R)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
In the same manner as described in Example 13 by using (1R, 3R)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline (4.32 g), triethylamine (4.04 g), CS2 (3.04 g), methyl iodide (5.68 g) and 80% ethanol (150 ml), there is prepared the title compound (4.22 g, 69%) as white powder, [α]D20 -205.4° (c=1.0, methanol). NMR (CDCl3, δ): 1.66 (d, J=6.7 Hz, 3H, C1 --CH3), 2.70 (s, 3H, CSSCH3), Mass m/e: 306 (M+), 258 (M+ --CH3SH).

reactant | (1R, 3R)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline | 4.32 g | OC[C@@H]1N[C@@H](C=2NC3=CC=CC=C3C2C1)C | C13H16N2O
reactant | triethylamine | 4.04 g | C(C)N(CC)CC | C6H15N
reactant | CS2 | 3.04 g | C(=S)=S | CS2
reactant | methyl iodide | 5.68 g | CI | CH3I
solvent | methanol | CO | CH4O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Methyl (1R, 3R)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 4.22 g, 69% | OC[C@@H]1N([C@@H](C=2NC3=CC=CC=C3C2C1)C)C(=S)SC | C15H18N2OS2
